plaintext
* NMOS Transistors
M3 3 2 2 2 NMOS
M5 7 7 2 2 NMOS
M6 5 7 5 5 NMOS
* PMOS Transistor
? Missing component
* Current Source
IISS 2 2 DC 1mA
* Resistors
RL 6 2 RL_value
RM1 3 4 RM_value
RM2 6 2 RM_value
RrO1 6 5 rO1_value
* Voltage Source
VDD 9 2 DC VDD_value
.MODEL NMOS NMOS(LEVEL=1)
.MODEL PMOS PMOS(LEVEL=1)
.end
